US04840883
synthesis of 2-nitro-3-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-6-benzamidophenol
In 100 ml of acetic acid and 100 ml of dimethylformamide was dissolved 20 g (35×10-3 mole) of 2-benzamido-4-chloro-5-{2-(2,4-di-t-amylphenoxy)butanamido}phenol. To the solution was added dropwise slowly a solution of 2.7 g of sodium nitrite dissolved in 5 ml of a distilled water at room temperature, and then the mixture was stirred for 2 hours. The reaction mixture was poured into ice-cold water, and precipitated yellow solids were collected by filtration and washed with water. Yield: 21 g.

reactant | 2-benzamido-4-chloro-5-{2-(2,4-di-t-amylphenoxy)butanamido}phenol | 35×10-3 mole, 20 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C(=C1)Cl)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)O | C33H41ClN2O4
reactant | sodium nitrite | 2.7 g | N(=O)[O-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 2-nitro-3-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-6-benzamidophenol | [N+](=O)([O-])C1=C(C(=CC(=C1NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)Cl)NC(C1=CC=CC=C1)=O)O | C33H40ClN3O6
